US05208143
A. Preparation of Ethyl 2-(4-methoxybenzyl)-3-oxo-4,4,4-trifluorobutanoate
A 1 L four neck round bottom flask, fitted with reflux condenser, dropping funnel, argon inlet, and magnetic stirrer was charged with 7.17 g (0.149 mol) of a 50% (w/v) oil dispersion of sodium hydride and 300 mL of dry ethyl ether. Absolute ethanol (9.0 mL) was slowly added to the stirred solution. After the evolution of hydrogen stopped, a mixture of 25 g (0.136 mol) of ethyl 4,4,4-trifluoroacetoacetate and 21.3 g (0.136 mol) of 4-methoxybenzyl chloride was added over a 1 hour period. The resulting mixture was refluxed overnight, cooled, extracted with water, 1N hydrochloric acid, dried over anhydrous magnesium sulfate and rotary-evaporated under reduced pressure. The crude reaction mixture (33.5 g) was chromatographed on a 60 mm xx 300 mm silica gel column with ethyl acetate/hexane (25/75). Similar fractions were combined and gave 9.4 g (23%) of the (spectroscopically complex) product as an oil. NMR(CDCl3): 1.26(m,3H), 3.77(s,3H), 4.12(m,2H), 7.08(m,2H).

reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl 4,4,4-trifluoroacetoacetate | 0.136 mol, 25 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | 4-methoxybenzyl chloride | 0.136 mol, 21.3 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | ethanol | 9.0 mL | C(C)O | C2H6O
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
product | Ethyl 2-(4-methoxybenzyl)-3-oxo-4,4,4-trifluorobutanoate | COC1=CC=C(CC(C(=O)OCC)C(C(F)(F)F)=O)C=C1 | C14H15F3O4
